data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_426499_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])=[C:5]([C:6]([C:4]([H:20])([H:21])[H:22])([O:8][H:10])[O:9][H:11])[N:7]([H:12])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])(/[C:5](=[C:6](\[C:4]([H:20])([H:21])[H:22])[O:9][H:11])[N:7]([H:12])[H:13])[O:8][H:10],62.70293749999041
MR_92769_0,[C:1]([C:2]1([H:9])[C:3]([H:10])([H:11])[N:7]1[H:8])([C:4]([H:12])([H:15])[H:16])([C:5]([H:13])([H:17])[H:18])[C:6]([H:14])([H:19])[H:20]>>[C:1](/[C:2]([C:3]([H:9])([H:10])[H:11])=[N:7]/[H:8])([C:4]([H:12])([H:15])[H:16])([C:5]([H:13])([H:17])[H:18])[C:6]([H:14])([H:19])[H:20],72.63061500000092
MR_494690_0,[C:1]1([C:4]([H:14])([H:15])[H:16])([O:7][H:9])[O:5][C:2]([O:8][H:10])([H:11])[C:3]([H:12])([H:13])[O:6]1>>[C:1]([C:4]([H:14])([H:15])[H:16])([O:6][C:3]([C:2]([O:5][H:9])([O:8][H:10])[H:11])([H:12])[H:13])=[O:7],31.07317249998445
MR_138202_0,[C:1]1([O:6][H:9])([H:11])[C:4]([C:2]([H:12])([H:13])[H:14])([C:3](=[C:5]([H:15])[H:16])[O:7][H:10])[O:8]1>>[C:1]([C:3](=[C:5]([H:15])[H:16])[O:7][H:10])([C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])([O:6][H:9])[H:11],54.394210000030085
MR_670568_2,[C:1]1([H:10])([H:11])[N:3]([H:9])[C:4]([O:7][H:8])=[C:5]([C:2]([H:12])([H:13])[H:14])[O:6]1>>[C:1]1([H:10])([H:11])[C@:5]([C:2]([H:12])([H:13])[H:14])([C:4]([N:3][H:9])[O:7][H:8])[O:6]1,56.220862499983895
MR_454989_0,[C:1]([N:2]([H:9])[H:10])([C:3](=[O:7])[H:12])(/[C:4](=[N:6]/[H:11])[H:13])[O:5][H:8]>>[C:1]([N:2]([H:9])[H:10])([C:3](/[C:4](=[N:6]/[H:11])[H:13])=[O:7])([O:5][H:8])[H:12],43.00383000003862
MR_102187_2,[C:1]([C:3](/[C:4](=[C:5](\[C:2]([H:13])([H:14])[H:15])[H:12])[H:11])([O:7][H:8])[H:10])(=[O:6])[H:9]>>[C:1]([C:3](=[O:7])[H:10])(/[C:4](=[C:5](\[C:2]([H:13])([H:14])[H:15])[H:12])[H:11])([O:6][H:8])[H:9],42.46480750000842
MR_407080_0,[C:1](\[C:2]([C:3]([C:6]([C:5]([O:8][H:11])=[O:9])=[O:10])([H:17])[H:18])([H:15])[H:16])(=[N:4]\[H:12])[N:7]([H:13])[H:14]>>[C:1]1([N:4]([C:6]([C:5]([O:8][H:11])=[O:9])=[O:10])[H:12])([N:7]([H:13])[H:14])[C:2]([H:15])([H:16])[C:3]1([H:17])[H:18],53.895975000039584
MR_484944_0,[C:1](/[C:7](=[C:3](\[N:2]([N:4]([H:10])[H:11])[N:5]([H:8])[H:9])[N:6]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C@@:7]1([H:14])[N:2]([N:5]([H:8])[H:9])[C:3]1([N:4]([H:10])[H:11])[N:6]([H:12])[H:13])([H:15])([H:16])[H:17],53.25216000002428
MR_123003_1,[C:1](/[C:4](=[C:2](\[C:3]([N:5]([H:10])[H:11])=[O:8])[O:7][H:9])[N:6]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1([N:6]([H:12])[H:13])[C:2]([O:7][H:9])=[C:3]([N:5]([H:10])[H:11])[O:8]1)([H:14])([H:15])[H:16],48.77118249999484
MR_78440_0,[N:1](/[C:2](=[C:3](/[C:4](=[C:5]([H:11])[H:12])[H:10])[H:9])[H:8])([H:6])[H:7]>>[N:1]([C:2]1([H:8])[C:3]([H:9])=[C:4]([H:10])[C:5]1([H:11])[H:12])([H:6])[H:7],41.2179650000175
MR_487065_0,[C:1]1([C:2]([H:16])([H:17])[H:18])([H:10])[C:5]([O:7][H:9])([H:14])[C:6]1(/[C:3]([N:4]([H:11])[H:12])=[N:8]/[H:13])[H:15]>>[C:1]([C:2]([H:16])([H:17])[H:18])(/[C:5](=[C:6]([C:3](/[N:4]([H:11])[H:12])=[N:8]/[H:13])\[H:15])[H:14])([O:7][H:9])[H:10],60.84051749998423
MR_683892_1,[C:1]1([C:3]([H:11])([H:12])[H:13])([O:7][C:5](=[O:8])[H:10])[C:2]([C:4]([H:14])([H:15])[H:16])([H:9])[O:6]1>>[C:1]([C:3]([H:11])([H:12])[H:13])([O:6][C:2]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:8])[H:10])[H:9])=[O:7],62.52912000000123
MR_633834_2,[C:1]([O:7][N:3]([C:2]([H:16])([H:17])[H:18])/[C:4]([N:5]([H:10])[H:11])=[C:6](/[O:8][H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([O:7][C:4]1([N:5]([H:10])[H:11])[N:3]([C:2]([H:16])([H:17])[H:18])[C:6]1([O:8][H:9])[H:12])([H:13])([H:14])[H:15],28.415082499989666
MR_534992_1,[C:1]([C:3]1=[N:6][C:2]2(/[N:7]=[N:8]\[H:9])[O:4][N:5]21)([H:10])([H:11])[H:12]>>[C:1]([c:3]1[n:5][o:4][c:2](/[N:7]=[N:8]/[H:9])[n:6]1)([H:10])([H:11])[H:12],13.872769999966152
MR_615703_1,[C:1]([C:2]([O:6][N:4]([H:12])[H:13])=[O:8])([C:3]([O:7][H:10])=[O:9])([N:5]([H:14])[H:15])[H:11]>>[C:1]([C:2]([C:3]([O:7][H:10])=[O:9])=[O:8])([N:5]([H:14])[H:15])([O:6][N:4]([H:12])[H:13])[H:11],53.92986000002537
MR_163622_1,[C:1]([C:3](/[C:7](=[C:6]([C:2](=[N:4]\[H:10])\[N:5]([H:12])[H:13])/[H:14])[H:15])([O:8][H:9])[H:11])([H:16])([H:17])[H:18]>>[C:1](/[C:3](=[C:7](/[C:6](=[C:2]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])[H:14])[H:15])[O:8][H:9])([H:16])([H:17])[H:18],36.08187750000127
MR_556039_0,[C:1]([N:2]([O:4][N:3]([H:7])[H:8])[O:5][H:6])([H:9])([H:10])[H:11]>>[C:1]([O:4][N:2]([N:3]([H:7])[H:8])[O:5][H:6])([H:9])([H:10])[H:11],19.9055549999656
MR_299484_0,[C:1](=[C:3](/[N:7]([H:17])[H:18])[N:8]([C:2]([N:5]([H:13])[H:14])=[O:9])[N:4]([H:11])[H:12])(\[N:6]([H:15])[H:16])[H:10]>>[C:1]([C:2]([N:5]([H:13])[H:14])=[O:9])(/[C:3]([N:7]([H:17])[H:18])=[N:8]/[N:4]([H:11])[H:12])([N:6]([H:15])[H:16])[H:10],62.03590499999805
MR_289880_0,[C:1]([C:3](=[C:2]([O:6][H:10])[O:7][H:9])[N:4]([H:11])[H:12])([C:5](=[O:8])[H:13])([H:14])[H:15]>>[C:1](=[C:3]([C:2]([C:5](=[O:8])[H:13])([O:6][H:10])[O:7][H:9])[N:4]([H:11])[H:12])([H:14])[H:15],39.78224500003975
